US07652049B2
tert-Butylammonium fluoride (1M in THF, 179 μL, 0.179 mmol) was added dropwise to a stirred solution of 2′-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-fluoro-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-ol (76.8 mg, 0.163 mmol) in THF (2 mL) at 0° C. and the reaction was allowed to warm to room temperature overnight. Saturated NH4Cl (10 ml) was added and the mixture was extracted with EtOAc (3×20 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-40% EtOAc in hexanes gradient) to afford 4-fluoro-2′-(hydroxymethyl)-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-ol. Rf=0.26 (20% EtOAc in hexanes). 1H NMR (600 MHz, CDCl3) δ 7.85 (s, 1H), 7.63 (d, J=7.9 Hz, 1H), 7.41 (d, J=8.0 Hz, 1H), 6.53 (d, J=7.7 Hz, 1H), 4.50 (br s, 1H), 4.47 (s, 1H), 3.42 (s, 3H), 3.25-3.19 (m, 1H), 1.24 (br s, 6H).

reactant | tert-Butylammonium fluoride | 0.179 mmol, 1M, 179 μL | [F-].C(C)(C)(C)[NH3+]
reactant | 2′-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-fluoro-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-ol | 0.163 mmol, 76.8 mg | [Si](C)(C)(C(C)(C)C)OCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=C(C(=C1)C(C)C)F)O)OC | C24H32F4O3Si
reactant | NH4Cl | 10 ml | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-fluoro-2′-(hydroxymethyl)-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-ol | FC1=C(C(=C(C=C1C(C)C)C1=C(C=C(C=C1)C(F)(F)F)CO)OC)O | C18H18F4O3
